US07714168B2
To 80 ml of acetonitrile were added 4.5 g of methyl 3,5-difluoro-4-hydroxybenzoate, 3.5 g of propargyl bromide and 9.4 g of cesium carbonate, and the mixture obtained was heated under reflux for 2 hours. The reaction mixture was filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 5.5 g of methyl 3,5-difluoro-4-(2-propynyloxy)benzoate represented by the formula:

reactant | methyl 3,5-difluoro-4-hydroxybenzoate | 4.5 g | FC=1C=C(C(=O)OC)C=C(C1O)F | C8H6F2O3
reactant | propargyl bromide | 3.5 g | C(C#C)Br | C3H3Br
reactant | cesium carbonate | 9.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | methyl 3,5-difluoro-4-(2-propynyloxy)benzoate | 5.5 g | FC=1C=C(C(=O)OC)C=C(C1OCC#C)F | C11H8F2O3
